US09376422B2
To a stirred solution of methyl 2-bromo-3-(cyclopentyl(methyl)amino)benzoate (1 equiv.) and 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (1.2 equiv.) in dioxane/water mixture (5 mL+1 mL), Na2CO3 (3.6 equiv.) was added and solution purged with argon for 15 min. Then, Pd(PPh3)4 (0.1 equiv.) was added and argon purged for 10 min. and the reaction mixture heated at 100° C. for 2 h. On completion, the reaction mixture was diluted with water and extracted with 10% MeOH/DCM. The combined organic layers were dried over Na2SO4 and solvent removed under reduced pressure to afford crude material which was purified by column chromatography over silica gel to afford the desired methyl 3-(cyclopentyl(methyl)amino)-2-vinylbenzoate.

reactant | methyl 2-bromo-3-(cyclopentyl(methyl)amino)benzoate | 1 equiv. | BrC1=C(C(=O)OC)C=CC=C1N(C)C1CCCC1 | C14H18BrNO2
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 1.2 equiv. | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | Na2CO3 | 3.6 equiv. | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane water | 5 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.1 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-(cyclopentyl(methyl)amino)-2-vinylbenzoate | C1(CCCC1)N(C=1C(=C(C(=O)OC)C=CC1)C=C)C | C16H21NO2
